US04827004
A solution of 7.3 g of (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienal in 10 ml of ether is added dropwise at -20° to a methylmagnesium iodide solution prepared from 0.56 g of magnesium shavings and 3.1 g of methyl iodide in 80 ml of ether. After stirring at -20° for 2 hours the reaction mixture is poured into a mixture of ice and saturated ammonium chloride solution and extracted twice with ether. The combined organic extracts are washed with saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. The oil which remains behind as the residue is chromatographed on silica gel with hexane-ethyl acetate-triethylamine 90:10:0.1, whereby (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecadien-trien-2-ol is obtained as a colourless oil. NMR (250 MHz, CDCl3): 5.2 (d, J=8 H-C(3)); 5.1 (t, J=6.5, H-C(7)); 4.84 and 4.75 (2m, 2H-C(13)); 4.57 (m, H-C(2)); 4.0 (t, J=6.5, H-C(11)); 2.25-1.4 (m, 4CH2, 3CH3); 1.22 (d, J=6.5, 3H-C(1)); 0.89 (s, SiC(CH3)3); 0.04 and 0.0 (2s, Si(CH3)2).

reactant | (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienal | 7.3 g | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CC=O)C)/C)C(=C)C)(C)C | C21H38O2Si
reactant | methylmagnesium iodide | C[Mg]I
reactant | magnesium | 0.56 g | [Mg] | Mg
reactant | methyl iodide | 3.1 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | (7E)-11-(tert.-butyldimethylsiloxy)-4,8,12-trimethyl-3,7,12-tridecadien-trien-2-ol | C(C)(C)(C)[Si](OC(CC/C(=C/C=CC(=CC(=C)O)C)/C)C(=C)C)(C)C | C22H38O2Si
